US07989433B2
A solution of 3,3-difluoro-N,N-dimethylcyclobutanecarboxamide (24 g, 147 mmol) prepared in Part A in THF (500 mL) was added to a stirred suspension of lithium aluminum hydride (7.5 g, 198 mmol) in 500 in THF at 0° C. The mixture was allowed to come to RT. After stirring the reaction mixture at RT for 18 h, it was quenched by slowly adding 10 mL 6 N NaOH and 5 mL water at 5° C. with stirring. The mixture was stirred at RT for 0.5 h, dried over Na2SO4 and filtered. The filtrate was concentrated to ca. 30 mL by a careful distillation of most of the THF using a vigreux column. The remaining material was distilled under slightly reduced pressure (ca. 100-200 mm Hg); the fraction (20 mL, bp 70-90° C.) contained the title compound contaminated with THF. The residual THF was carefully purged with a gentle stream of nitrogen to yield 1-(3,3-difluorocyclobutyl)-N,N-dimethylmethanamine (12 g, 80 mmol, 54.7% yield). 1H NMR (400 MHz, CDCl3) δ ppm 2.46-2.94 (2 H, m), 2.38 (2 H, d, J=6.55 Hz), 2.16-2.28 (9 H, m).

reactant | 3,3-difluoro-N,N-dimethylcyclobutanecarboxamide | 147 mmol, 24 g | FC1(CC(C1)C(=O)N(C)C)F | C7H11F2NO
reactant | lithium aluminum hydride | 198 mmol, 7.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 1-(3,3-difluorocyclobutyl)-N,N-dimethylmethanamine | 80 mmol, 12 g, 54.7% yield | FC1(CC(C1)CN(C)C)F | C7H13F2N
